US07951826B2
[4-(3-Methanesulfonyl-propoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure B and D starting from 4-(3-methanesulfonyl-propoxy)-benzoic acid methyl ester and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine. MS (ES+) 395.3.

reactant | 4-(3-methanesulfonyl-propoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCCCS(=O)(=O)C)=O | C12H16O5S
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
product | [4-(3-Methanesulfonyl-propoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | CS(=O)(=O)CCCOC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C20H30N2O4S
